US07790756B2
A mixture of 2-fluoro-4-(2-(methoxy(methyl)amino)pyridine-4-yloxy)aniline (2.0 g, 7.6 mmol) and 10% Pd/C (200 mg, 0.18 mmol) in MeOH (15 mL) was stirred under a H2 atmosphere (50 psi) at RT for 48 h. The mixture was filtered through Celite® and the cake was washed with MeOH. The filtrate was concentrated to afford 4-(4-amino-3-fluorophenoxy)-N-methylpyridin-2-amine (1.2 g, 68% yield). 1H NMR (DMSO-d6) δ 7.86 (d, J=6.3 Hz, 1H), 6.82-6.69 (m, 3H), 6.18 (dd, J=6.0, 2.1 Hz, 1H), 5.84 (d, J=2.1 Hz, 1H), 5.41 (br s, 1H), 3.62 (s, 2H), 2.84 (d, J=3.0 Hz, 3H); MS (ESI) m/z: 234.2 (M+H+).

reactant | 2-fluoro-4-(2-(methoxy(methyl)amino)pyridine-4-yloxy)aniline | 7.6 mmol, 2.0 g | FC1=C(N)C=CC(=C1)OC1=CC(=NC=C1)N(C)OC | C13H14FN3O2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.18 mmol, 200 mg | [Pd] | Pd
product | 4-(4-amino-3-fluorophenoxy)-N-methylpyridin-2-amine | 1.2 g, 68% yield | NC1=C(C=C(OC2=CC(=NC=C2)NC)C=C1)F | C12H12FN3O
